US08383641B2
d.2 [2-(4-Methoxy-5-nitro-pyrimidin-2-yloxy)-ethyl]-propyl-carbamic acid tert-butyl ester
To a solution of (2-hydroxy-ethyl)-propyl-carbamic acid tert-butyl ester (1.07 g, 5.28 mmol) in THF (40 ml) at 0° C. was added NaH (0.25 g, 5.80 mmol). After stirring the suspension at 0° C. for 30 minutes a solution of 2-chloro-4-methoxy-5-nitropyrimidine (1 g, 5.28 mmol) in THF (10 ml) was added and the mixture was stirred at room temperature for 16 h. The mixture was added to water, which was extracted three times with dichloromethane. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure to obtain the title compound.

reactant | (2-hydroxy-ethyl)-propyl-carbamic acid tert-butyl ester | 5.28 mmol, 1.07 g | C(C)(C)(C)OC(N(CCC)CCO)=O | C10H21NO3
reactant | NaH | 5.80 mmol, 0.25 g | [H-].[Na+]
reactant | 2-chloro-4-methoxy-5-nitropyrimidine | 5.28 mmol, 1 g | ClC1=NC=C(C(=N1)OC)[N+](=O)[O-] | C5H4ClN3O3
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [2-(4-Methoxy-5-nitro-pyrimidin-2-yloxy)-ethyl]-propyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC)CCOC1=NC=C(C(=N1)OC)[N+](=O)[O-])=O | C15H24N4O6
